US08633207B2
To a mixture of sodium 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetate (100 mg, 0.47 mmol), HATU (213 mg, 0.56 mmol) and 2-aminobenzamide (77 mg, 0.56 mmol) was added DMF (2 mL) and the mixture was stirred overnight at rt. The mixture was partitioned between saturated aq ammonium chloride and EtOAc, and the organic layer was concentrated. The residue was purified by silica gel chromotography eluting with 2-10% MeOH/DCM to afford 2-(2,2-difluoro-2-(5-fluoropyridin-2-yl)acetamido)benzamide as an oil (110 mg, 74%). LC-MS (ESI) m/z 332 (M+Na)+.

reactant | sodium 2,2-difluoro-2-(5-fluoropyridin-2-yl)acetate | 0.47 mmol, 100 mg | FC(C(=O)[O-])(C1=NC=C(C=C1)F)F.[Na+]
reactant | HATU | 0.56 mmol, 213 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminobenzamide | 0.56 mmol, 77 mg | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(2,2-difluoro-2-(5-fluoropyridin-2-yl)acetamido)benzamide | 110 mg, 74% | FC(C(=O)NC1=C(C(=O)N)C=CC=C1)(C1=NC=C(C=C1)F)F | C14H10F3N3O2
